US06423689B1
[S-(R*,R*)]-2-[2-(Azepane-1-sulfonylamino)-4-methyl-pentanoylamino]-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester
A solution of the product from Example AI ([S-(R*,R*)]-2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester) (220 mg, 0.50 mmol), homopiperidinesulfonyl chloride (110 mg, 0.55 mmol, prepared by the method of Von Geldem, et al., J. Med. Chem., 1996;39:968-981), N,N-diisopropylethylamine (129 mg, 1.00 mmol), and DMAP (20 mg) in DMF (1 mL) is stirred at room temperature for 72 hours, diluted with ethyl acetate, and washed with water, 1N HCl, saturated NaHCO3 solution and brine, dried over anhydrous sodium sulfate, and concentrated. The oily residue thus obtained was purified via flash chromatography (30% EtOAc/hexane) followed by preparative TLC (2 elutions, 30% EtOAc/Hexane) to afford 39 mg of a clear colorless oil which is dissolved in 0.5 mL CHCl3, diluted with 4 mL hexane, and maintained at 3° C. until crystallization occurred. The crystals are collected and weigh 10.1 mg (3%), mp=123-124° C.

reactant | 2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
reactant | homopiperidinesulfonyl chloride | N1(CCCCCC1)S(=O)(=O)Cl | C6H12ClNO2S
reactant | N,N-diisopropylethylamine | 1.00 mmol, 129 mg | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(Azepane-1-sulfonylamino)-4-methyl-pentanoylamino]-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | 39 mg | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NS(=O)(=O)N1CCCCCC1)=O)=O | C32H47N3O6S
